US04968721
A solution of 14.0 g of 2,2-dimethyl-N-[2-[2-methylamino-2-(2-ethylphenyl)ethyl]phenyl]propanamide and 100 ml of 6N hydrochloric acid was refluxed for 8 hr, cooled and poured into 250 ml of ice. The mixture was basified with 50% sodium hydroxide solution and extracted with dichloromethane. The extracts were combined, dried over anhydrous sodium sulfate and concentrated. The oil was dissolved in 50 ml methanol and the solution was treated with ethereal hydrogen chloride and diluted with 700 ml anhydrous ether. The solid was recrystallized from methanol/ether to give 2-amino-α-(2-ethylphenyl)-N-methylphenethylamine dihydrochloride, mp 251°-253° C. (dec).

reactant | 2,2-dimethyl-N-[2-[2-methylamino-2-(2-ethylphenyl)ethyl]phenyl]propanamide | 14.0 g | CC(C(=O)NC1=C(C=CC=C1)CC(C1=C(C=CC=C1)CC)NC)(C)C | C22H30N2O
reactant | hydrochloric acid | 6N, 100 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-amino-α-(2-ethylphenyl)-N-methylphenethylamine dihydrochloride | Cl.Cl.NC1=C(CC(C2=C(C=CC=C2)CC)NC)C=CC=C1 | InChI=1S/C17H22N2.2ClH/c1-3-13-8-4-6-10-15(13)17(19-2)12-14-9-5-7-11-16(14)18;;/h4-11,17,19H,3,12,18H2,1-2H3;2*1H
